US08492395B2
To a stirred brown solution of [3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-7-ylmethyl]-carbamic acid tert-butyl ester (14.7 g, 36.8 mmol) in methanol (200 mL) and methylene chloride (200 mL), was added 2 M HCl in ether (320 mL), and the mixture was stirred overnight. The solvent was evaporated, and the residue was stirred in ether (100 mL) for 2 hours. The suspension was filtered to give 3-(7-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride as a light yellow solid (13.2 g, 106% crude yield). The product was used in the next step without further purification.

reactant | [3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-7-ylmethyl]-carbamic acid tert-butyl ester | 36.8 mmol, 14.7 g | C(C)(C)(C)OC(NCC1=CC=C2C(N(C(=NC2=C1)C)C1C(NC(CC1)=O)=O)=O)=O | C20H24N4O5
reactant | HCl | 2 M | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 320 mL | CCOCC | C4H10O
product | 3-(7-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | Cl.NCC1=CC=C2C(N(C(=NC2=C1)C)C1C(NC(CC1)=O)=O)=O | InChI=1S/C15H16N4O3.ClH/c1-8-17-11-6-9(7-16)2-3-10(11)15(22)19(8)12-4-5-13(20)18-14(12)21;/h2-3,6,12H,4-5,7,16H2,1H3,(H,18,20,21);1H
